US04406909
47.6 g (0.25 mol) of 4-toluenesulphonyl chloride were dissolved in 100 ml of chloroform, 35 g (0.3 mol) of 2,2-dimethyl-1-hydroxy-butan-3-one were added, and 40 ml (0.5 mol) of pyridine were added dropwise at 0° to 5° C. The reaction mixture was subsequently stirred at room temperature for 15 hours and poured onto 200 g of ice and 70 ml of concentrated hydrochloric acid and the organic phase was separated off, washed three times with 200 ml of water each time, dried over sodium sulphate and concentrated. The residue was taken up in 100 ml of petroleum ether, whereupon the end product crystallized out. 48 g (71% of theory) of 2,2-dimethyl-1-tosyloxy-butan-3-one were obtained as colorless crystals of melting point 49°-52° C.

reactant | 4-toluenesulphonyl chloride | 0.25 mol, 47.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,2-dimethyl-1-hydroxy-butan-3-one | 0.3 mol, 35 g | CC(CO)(C(C)=O)C | C6H12O2
reactant | pyridine | 0.5 mol, 40 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 70 ml | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2-dimethyl-1-tosyloxy-butan-3-one | 48 g, 71% | CC(COS(=O)(=O)C1=CC=C(C)C=C1)(C(C)=O)C | C13H18O4S
